US08106031B2
To a solution of 2-bromo-5-chlorobenzoic acid (5.49 g, 23.3 mmol) in anhydrous THF (70 mL) under nitrogen was added dropwise a BH3 THF solution (1.0 M, 55 mL) at 0° C. and the reaction mixture was stirred overnight at room temperature. Then the mixture was cooled on an ice bath and MeOH (20 mL) was added dropwise to decompose excess BH3. The resulting mixture was stirred until no bubble was released and then 10% NaOH (10 mL) was added. The mixture was concentrated and the residue was mixed with water (200 mL) and extracted with EtOAc. The residue from rotary evaporation was purified by silica gel column chromatography (5:1 hexane/EtOAc) to give 2-bromo-5-chlorobenzyl alcohol as a white solid (4.58 g, 88%): 1H NMR (300 MHz, DMSO-d6): δ (ppm) 7.57 (d, J=8.7 Hz, 1H), 7.50-7.49 (m, 1H), 7.28-7.24 (m, 1H), 5.59 (t, J=6.0 Hz, 1H), 4.46 (d, J=6.0 Hz, 2H).

reactant | 2-bromo-5-chlorobenzoic acid | 23.3 mmol, 5.49 g | BrC1=C(C(=O)O)C=C(C=C1)Cl | C7H4BrClO2
reactant | MeOH | 20 mL | CO | CH4O
reactant | NaOH | 10 mL | [OH-].[Na+]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M, 55 mL | C1CCOC1 | C4H8O
product | 2-bromo-5-chlorobenzyl alcohol | 4.58 g, 88% | BrC1=C(CO)C=C(C=C1)Cl | C7H6BrClO
